US04933453
3-[4-[1-(3-Methoxyphenyl)-4-piperazinyl]butyl]-4-thiazolidinone hydrochloride
To a solution of 3-(4-bromobutyl)-4-thiazolidinone (3.0 g) and 1-(3-methoxyphenyl)piperazine dihydrochloride (3.34 g) in 100 ml of anhydrous CH3CN were added K2CO3 (8.7 g) and NaI (200 mg). The mixture was heated to 80° with stirring under N2.

reactant | 3-(4-bromobutyl)-4-thiazolidinone | 3.0 g | BrCCCCN1CSCC1=O | C7H12BrNOS
reactant | 1-(3-methoxyphenyl)piperazine dihydrochloride | 3.34 g | Cl.Cl.COC=1C=C(C=CC1)N1CCNCC1
reactant | K2CO3 | 8.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 200 mg | [Na+].[I-]
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 3-[4-[1-(3-Methoxyphenyl)-4-piperazinyl]butyl]-4-thiazolidinone hydrochloride | Cl.COC=1C=C(C=CC1)N1CCN(CC1)CCCCN1CSCC1=O | InChI=1S/C18H27N3O2S.ClH/c1-23-17-6-4-5-16(13-17)20-11-9-19(10-12-20)7-2-3-8-21-15-24-14-18(21)22;/h4-6,13H,2-3,7-12,14-15H2,1H3;1H
